US09422292B2
A mixture of 2-fluoronitrobenzene (3.5 g, 24.8 mmol), 4-chlorobenzenamine (3.05 g, 24.0 mmol), K2CO3 (3.45 g, 25.0 mmol) and KF (1.5 g, 25.8 mmol) was heated at 220° C. for 28 min under microwave condition. The solid was dissolved in DCM (150 mL), washed with water (50 mL×3), dried over Na2SO4. The solvent was evaporated in vacuo, and then the mixture was purified by Combi-flash (PE:EA=20:1) to give N-(4-chlorophenyl)-2-nitrobenzenamine (3.2 g, 52%) as a scarlet solid. 1H NMR (300 MHz, CD3OD): δ 6.82-6.87 (m, 1H), 7.27-7.31 (m, 2H), 7.41-7.45 (m, 3H), 7.70-7.73 (m, 1H), 8.15-8.18 (m, 1H).

reactant | 2-fluoronitrobenzene | 24.8 mmol, 3.5 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chlorobenzenamine | 24.0 mmol, 3.05 g | ClC1=CC=C(C=C1)N | C6H6ClN
reactant | K2CO3 | 25.0 mmol, 3.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | KF | 25.8 mmol, 1.5 g | [F-].[K+]
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chlorophenyl)-2-nitrobenzenamine | 3.2 g, 52% | ClC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9ClN2O2
